US04988698
To a mixture of 6-(1-piperazinyl)-3,4-dihydro-2(1H)-quinolinone (1.28 g), 4-chloro-6,7-dimethoxyquinazoline hydrochloride (1.43 g) and N,N-dimethylformamide (50 ml) was added triethylamine (560 mg) and the mixture was stirred for 8 hours at ambient temperature. The solvent was removed under reduced pressure and to the obtained residue were added water (20 ml), tetrahydrofuran (10 ml) and ethyl acetate (10 ml). The separated organic layer was washed with brine, dried over magnesium sulfate and concentrated. The residue was subjected to a column chromatography on silica gel (80 g) and eluted with 10% solution of methanol in chloroform. The fractions containing the object compound were combined and concentrated. The obtained residue was subjected to a column chromatography on alumina (60 g) and eluted with 5% solution of methanol in chloroform. The fractions containing the object compound were combined and concentrated to give 6-[4-(6,7-dimethoxyquinazolin-4-yl)-1-piperazinyl]-3,4-dihydro-2(1H)-quinolinone (0.8 g).

reactant | 6-(1-piperazinyl)-3,4-dihydro-2(1H)-quinolinone | 1.28 g | N1(CCNCC1)C=1C=C2CCC(NC2=CC1)=O | C13H17N3O
reactant | 4-chloro-6,7-dimethoxyquinazoline hydrochloride | 1.43 g | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OC
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 560 mg | C(C)N(CC)CC | C6H15N
product | 6-[4-(6,7-dimethoxyquinazolin-4-yl)-1-piperazinyl]-3,4-dihydro-2(1H)-quinolinone | 0.8 g | COC=1C=C2C(=NC=NC2=CC1OC)N1CCN(CC1)C=1C=C2CCC(NC2=CC1)=O | C23H25N5O3
